US08222248B2
To a solution of N-(4-bromo-3,5-dimethyl-phenyl)-acetamide (150 mg) in THF (5 mL) was added n-BuLi (1.36 mL, 1.0 M solution in hexane) at −78° C. The mixture was stirred at −78° C. for 30 min, then warmed up to −40° C. for 5 min, then cooled down to at −78° C. again. After 20 min, DMF (0.24 mL) was added. The mixture was stirred at −78° C. for 30 min and then allowed to warm up to room temperature for 1 h. The reaction was quenched with saturated NH4Cl aqueous solution and extracted with EtOAc. The organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give N-(4-formyl-3,5-dimethyl-phenyl)-acetamide: MS (m/z) 192 (M+1).

reactant | N-(4-bromo-3,5-dimethyl-phenyl)-acetamide | 150 mg | BrC1=C(C=C(C=C1C)NC(C)=O)C | C10H12BrNO
reactant | n-BuLi | 1.0 M, 1.36 mL | [Li]CCCC
reactant | DMF | 0.24 mL | CN(C)C=O | C3H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-formyl-3,5-dimethyl-phenyl)-acetamide | C(=O)C1=C(C=C(C=C1C)NC(C)=O)C | C11H13NO2
